** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_IOPadVss.sch
.subckt sg13g2_IOPadVss vss vdd sub iovss iovdd iovss1
*.PININFO iovdd:B vss:B vdd:B sub:B iovss:B iovss1:B
R2 vss sub ptap1 A=24p P=160.6u
x2 iovdd sub vss vss sub sg13g2_DCPDiode_noptap
x4 vss iovss vss iovdd sub sg13g2_DCNDiode
* noconn vdd
R1 iovss1 sub ptap1 A=5407.1p P=703.48u
.ends

* expanding   symbol:  sg13g2_DCPDiode_noptap.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCPDiode_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCPDiode_noptap.sch
.subckt sg13g2_DCPDiode_noptap cathode guard anode1 anode2 sub
*.PININFO anode2:B cathode:B guard:B anode1:B sub:B
D1 anode1 cathode dpantenna l=27.78u w=1.26u
D2 anode2 cathode dpantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  sg13g2_DCNDiode.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCNDiode.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCNDiode.sch
.subckt sg13g2_DCNDiode cathode1 anode cathode2 guard sub
*.PININFO cathode2:B guard:B anode:B cathode1:B sub:B
R1 anode sub ptap1 A=141.2964p P=221.76u
D1 sub cathode1 dantenna l=27.78u w=1.26u
* noconn guard
D2 sub cathode2 dantenna l=27.78u w=1.26u
.ends

